US09315458B2
H) 4,5-dimethyl-6-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)-2-((2S)-tetrahydrofuran-2-ylmethyl) isoindolin-1-one
To a solution of 3-hydroxy-4,5-dimethyl-6-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)-2-(((2S)-tetrahydrofuran-2-yl)methyl)isoindolin-1-one (0.11 g) in trifluoroacetic acid (1.50 mL) was added triethylsilane (0.08 mL), and the mixture was stirred at room temperature for 15 min. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.08 g).

reactant | 3-hydroxy-4,5-dimethyl-6-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)-2-(((2S)-tetrahydrofuran-2-yl)methyl)isoindolin-1-one | 0.11 g | OC1N(C(C2=CC(=C(C(=C12)C)C)CC1=CC=C(C=C1)C=1N=NN(C1)C)=O)C[C@H]1OCCC1 | C25H28N4O3
reactant | triethylsilane | 0.08 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 1.50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4,5-dimethyl-6-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)-2-((2S)-tetrahydrofuran-2-ylmethyl) isoindolin-1-one | 0.08 g | CC1=C2CN(C(C2=CC(=C1C)CC1=CC=C(C=C1)C=1N=NN(C1)C)=O)C[C@H]1OCCC1 | C25H28N4O2
